US07361678B2
To a stirred solution of 2,4-difluoronitrobenzene (50 mmol), Et3N (100 mmol) and DMF (80 mL) was added dropwise a solution of n-butylamine (51 mmol) in DMF (20 mL) at rt, and the mixture was stirred at rt for 5 h. The reaction was quenched by cold H2O (100 mL), and the resulting mixture was extracted with EtOAc (4×100 mL). The combined EtOAc extracts were washed with brine (3×60 mL) and dried (anhydrous Na2SO4). The solvent was removed in vacuo to afford the desired 2-n-butylamino-4-fluoronitrobenzene which was used for further transformation.

reactant | 2,4-difluoronitrobenzene | 50 mmol | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | Et3N | 100 mmol | CCN(CC)CC | C6H15N
reactant | n-butylamine | 51 mmol | C(CCC)N | C4H11N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-n-butylamino-4-fluoronitrobenzene | C(CCC)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C10H13FN2O2
